US09359338B2
Step 2: Synthesis of tert-butyl 4-(4-amino-2-(trifluoromethyl)phenyl)piperidine-1-carboxylate
Stir the mixture of tert-butyl 4-(4-nitro-2-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (289 mg, 0.776 mmol), methanol (50 mL) and Pd/C (10%, 25 mg) under hydrogen atmosphere for 30 hrs. Remove H2, filter the mixture and concentrate the filtrate under reduced pressure. Purify the residue with flash chromatography (silica gel, PE:EtOAc=5:1) to afford the desired product (151 mg, 84%).

reactant | tert-butyl 4-(4-nitro-2-(trifluoromethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.776 mmol, 289 mg | [N+](=O)([O-])C1=CC(=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C17H19F3N2O4
catalyst | Pd/C | 25 mg | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | tert-butyl 4-(4-amino-2-(trifluoromethyl)phenyl)piperidine-1-carboxylate | 151 mg, 84% | NC1=CC(=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C17H23F3N2O2
